US05646273
9.6 g (0.24 mol) of 60% sodium hydride and 150 ml of N,N-dimethylformamide were placed in a container equipped with a stirrer, a reflux condenser and a nitrogen-introducing tube, and the solution was then stirred under the feed of nitrogen. Afterward, 35 g (0.25 mol) of 3,5-dimethyl-1,6-heptadiene-4-ol was added dropwise thereto at 20°-30° C. over 1 hour, and the solution was then stirred at the same temperature for 3 hours to prepare a sodium alcoholate solution. Next, 34.6 g (0.2 mol) of 3-nitrophthalonitrile and 150 ml of N,N-dimethylformamide were placed in a container equipped with a stirrer, and the above-mentioned sodium alcoholate solution was added dropwise thereto at 0° C. or less over 5 hours. After completion of the addition, the temperature of the solution was raised up to a level of 20°-30° C., and the solution was then stirred for 3 hours to bring reaction to an end. The thus obtained reaction solution was poured into 3 l of water and then stirred for 30 minutes, and 500 ml of toluene were added. After stirring for 30 minutes, the resulting toluene layer was separated. After toluene was distilled off under reduced pressure, recrystallization was carried out from 600 ml of n-hexane to obtain 44.7 g of 3-(3,5-dimethyl-1,6-heptadiene-4-oxy)phthalonitrile (yield=84.0%).

reactant | sodium hydride | 0.24 mol, 9.6 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | 3,5-dimethyl-1,6-heptadiene-4-ol | 0.25 mol, 35 g | CC(C=C)C(C(C=C)C)O | C9H16O
reactant | 3-nitrophthalonitrile | 0.2 mol, 34.6 g | [N+](=O)([O-])C1=C(C(C#N)=CC=C1)C#N | C8H3N3O2
reactant | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 l | O | H2O
product | 3-(3,5-dimethyl-1,6-heptadiene-4-oxy)phthalonitrile | 44.7 g, yield=84.0% | CC(C=C)C(C(C=C)C)OC1=C(C(C#N)=CC=C1)C#N | C17H18N2O
